US09403818B2
Preparation of methyl 8-(6-(methylamino)pyridin-3-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(6-(methylamino)pyridin-3-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (100 mg, 0.34 mmol) and N-methyl-5-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)pyridin-2-amine (96.2 mg, 0.41 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (131.6 mg, 96%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.34 mmol, 100 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | N-methyl-5-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)pyridin-2-amine | 0.41 mmol, 96.2 mg | CNC1=NC=C(C=C1)C1OC(C(O1)(C)C)(C)C | C13H20N2O2
product | methyl 8-(6-(methylamino)pyridin-3-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 131.6 mg, 96% | CNC1=CC=C(C=N1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C21H21N3O3
